US06911447B2
Preparation of 2-{3-[2-(tert-Butyldimethylsilanyloxy)ethyl]-2-oxo-piperizin-1-yl}-N-methyl-3-naphthalen-2-yl-propionamide (58):
2-[3-[2-(tert-butyldimethylsilanyloxy)ethyl]-4-(2-nitrobenzene-sulfonyl)-2-oxo-piperazin-1-yl]-N-methyl-3-naphthalen-2-yl propionamide, 57, (6.5 g, 10 mmol), trifluoroacetic acid (5 mL), and dichloromethane (50 mL) is stirred at room temperature for 2 hours and then concentrated in vacuo. The crude product is dissolved in dichloromethane and the organic layer washed with saturated sodium bicarbonate, dried, and concentrated in vacuo to afford the desired product.

reactant | 2-[3-[2-(tert-butyldimethylsilanyloxy)ethyl]-4-(2-nitrobenzene-sulfonyl)-2-oxo-piperazin-1-yl]-N-methyl-3-naphthalen-2-yl propionamide | [Si](C)(C)(C(C)(C)C)OCCC1C(N(CCN1S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C(C(=O)NC)CC1=CC2=CC=CC=C2C=C1)=O | C32H42N4O7SSi
reactant | trifluoroacetic acid | 10 mmol, 5 mL, 6.5 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-{3-[2-(tert-Butyldimethylsilanyloxy)ethyl]-2-oxo-piperizin-1-yl}-N-methyl-3-naphthalen-2-yl-propionamide | [Si](C)(C)(C(C)(C)C)OCCC1C(N(CCN1)C(C(=O)NC)CC1=CC2=CC=CC=C2C=C1)=O | C26H39N3O3Si
